US08012277B2
Synthesis of Aminoguanidinium Mucobromate
Mucobromic acid (2.0 g, 7.76 mmol) was dissolved in 10 ml of distilled water. Aminoguanidine bicarbonate (1.06 g, 7.76 mmol) was added in portions at room temperature (carbon dioxide gas was evolved) and the reaction was stirred at room temperature for 18 hours. The water was removed in vacuo with heating to approximately 90° C. The product was isolated as an off-white solid.

reactant | Mucobromic acid | 7.76 mmol, 2.0 g | C(/C(/Br)=C(/Br)\C=O)(=O)O | C4H2Br2O3
reactant | Aminoguanidine bicarbonate | 7.76 mmol, 1.06 g | C(O)(O)=O.NNC(=N)N
reactant | carbon dioxide | C(=O)=O | CO2
solvent | water | 10 ml | O | H2O
product | Aminoguanidinium Mucobromate | C(/C(/Br)=C(/Br)\C=O)(=O)[O-].NNC(=[NH2+])N | InChI=1S/C4H2Br2O3.CH6N4/c5-2(1-7)3(6)4(8)9;2-1(3)5-4/h1H,(H,8,9);4H2,(H4,2,3,5)/b3-2-;
